US08383637B2
3-(2-Amino-5-phenoxy-benzylamino)-N-methyl-N-phenyl-propionamide
A mixture of N-methyl-3-(2-nitro-5-phenoxy-benzylamino)-N-phenyl-propionamide (2 g, 0.0049 mol), 10% palladium on carbon (1 g), and thiophene solution (1 mL) in 150 mL of MeOH was hydrogenated until 3 equivalents of hydrogen were consumed. The reaction mixture was filtered, and the filtrate was concentrated. The resulting residue was purified by column chromatography on a Biotage. The product containing fractions were collected and concentrated to yield a residue.

reactant | N-methyl-3-(2-nitro-5-phenoxy-benzylamino)-N-phenyl-propionamide | 0.0049 mol, 2 g | CN(C(CCNCC1=C(C=CC(=C1)OC1=CC=CC=C1)[N+](=O)[O-])=O)C1=CC=CC=C1 | C23H23N3O4
reactant | thiophene | 1 mL | S1C=CC=C1 | C4H4S
reactant | hydrogen | 3 equivalents | [H][H] | H2
catalyst | palladium on carbon | 1 g | [Pd] | Pd
solvent | MeOH | 150 mL | CO | CH4O
product | 3-(2-Amino-5-phenoxy-benzylamino)-N-methyl-N-phenyl-propionamide | NC1=C(CNCCC(=O)N(C2=CC=CC=C2)C)C=C(C=C1)OC1=CC=CC=C1 | C23H25N3O2
